US07622504B2
3-Oxo-2-phenylpropanenitrile was prepared by addition of a mixture of phenylacetonitrile (0.90 g, 7.68 mmol) and ethyl formate (0.85 g, 11.5 mmol) dropwise to a stirred suspension of sodium hydride (0.41 g of 60%, 10 mmol) in tetrahydrofuran (4.5 mL). Reaction was rapid and exothermic. After heating in an oil bath at 50° C. for 20 min., the mixture was carefully acidified with dilute HCl and extracted with ethyl acetate. Extracts were washed with water, saturated NaCl solution, dried (MgSO4) and stripped to give 0.96 g (86%) of off-white solid, m.p. 148-153° C., Rf 0.5 (silica gel, ethanol:ethyl acetate:hexane=1:4:4).

reactant | phenylacetonitrile | 7.68 mmol, 0.90 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl formate | 11.5 mmol, 0.85 g | C(=O)OCC | C3H6O2
reactant | sodium hydride | 10 mmol, 0.41 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | 3-Oxo-2-phenylpropanenitrile | O=CC(C#N)C1=CC=CC=C1 | C9H7NO
